US08536185B2
Preparation of (4-(4-(2-phenylpyrimidin-5-yl)-1H-imidazol-2-yl)piperidin-1-yl)(pyridin-3-yl)methanone
To a 0° C. solution of 2-phenyl-5-(2-(piperidin-4-yl)-1H-imidazol-4-yl)pyrimidine (76 mg, 0.25 mmol) in tetrahydrofuran (4 mL) was added triethylamine (51 mg, 0.50 mmol) followed by nicotinoyl chloride (49 mg, 0.27 mmol) and the reaction mixture was stirred for 1 hour at 0° C. then allowed to warm to room temperature. The reaction was diluted with water and the organic material extracted three times with ethyl acetate. The combined organic phase was dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude solid was chromatographed on silica (4 g) and eluted with ethanol-ethyl acetate to give the title compound as a solid; melting point 234° C.; Rf 0.31 with 0.5/10/40/50 acetic acid-isopropanol-hexane-dichloromethane; MS (ESI+) m/z 411 (M+1); H-PGDS FPBA IC50: 0.45 μM.

reactant | 2-phenyl-5-(2-(piperidin-4-yl)-1H-imidazol-4-yl)pyrimidine | 0.25 mmol, 76 mg | C1(=CC=CC=C1)C1=NC=C(C=N1)C=1N=C(NC1)C1CCNCC1 | C18H19N5
reactant | triethylamine | 0.50 mmol, 51 mg | C(C)N(CC)CC | C6H15N
reactant | nicotinoyl chloride | 0.27 mmol, 49 mg | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (4-(4-(2-phenylpyrimidin-5-yl)-1H-imidazol-2-yl)piperidin-1-yl)(pyridin-3-yl)methanone | C1(=CC=CC=C1)C1=NC=C(C=N1)C=1N=C(NC1)C1CCN(CC1)C(=O)C=1C=NC=CC1 | C24H22N6O
